US05270324
Step 5: Ethyl 3-(acetylthio)-2-methylpropanoate
Ethyl 2-methylpropenoate (39 mmol) was diluted with 5.6 mL (78 mmol) of thiolacetic acid and stirred at 65° C. for 36 h. The mixture was then diluted with ether, washed with water and the organic phase was dried with Na2SO4. Evaporation to dryness yielded the title material as an orange oil which was used as such for the next step.

reactant | Ethyl 2-methylpropenoate | 39 mmol | CC(C(=O)OCC)=C | C6H10O2
reactant | thiolacetic acid | 78 mmol, 5.6 mL | S1C(=CC=C1)CC(=O)O | C6H6O2S
reactant | ether | CCOCC | C4H10O
product | Ethyl 3-(acetylthio)-2-methylpropanoate | C(C)(=O)SCC(C(=O)OCC)C | C8H14O3S
